US06340670B1
Nicotinic acid 4,5-diacetoxy-6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-diacetoxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-tetrahydro-pyran-2-ylmethyl ester
The title compound was prepared as a white foam (0.157 g, 73%) from nicotinic acid 6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-dihydroxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-4,5-dihydroxy-tetrahydro-pyran-2-ylmethyl ester using a procedure similar to Example 25, mp >112° C. (decomp.); 1H NMR (DMSO-d6) δ1.94 (s, 3H), 1.95 (s, 3H), 1.98 (s, 3H), 1.99 (s, 3H), 2.05 (s, 3H), 3.64 (t, J=9.4 Hz, 1H), 3.69-3.76 (m, 1H), 3.79 (dd, J=4.2, 9.2 Hz, 1H), 3.87 (t, J=9.4 Hz, 1H), 4.13-4.19 (m, 1H), 4.26 (t, J=9.4 Hz, 1H), 4.48 (dd, J=4.0, 12.3 Hz, 1H), 4.64 (ABq, J=12.7 Hz, Δδ=0.14, 2H), 4.71-4.76 (m, 1H), 4.82 (dd, J=8.1, 9.2 Hz, 1H), 4.87-4.92 (m, 2H), 5.26 (t, J=10.1 Hz, 1H), 5.32-5.38 (m, 2H), 5.5 (s, 1H), 7.04 (dd, J=1.8, 8.1 Hz, 1H), 7.29-7.36 (m, 5H), 7.42 (d, J=8.1 Hz, 1H), 7.58 (dd, J=4.8, 8.1 Hz, 1H), 7.61 (s, 1H), 8.39 (dt, J=2.0, 7.9 Hz, 1H), 8.84 (dd, J=1.5, 4.6 Hz, 1H), 9.17-9.19 (m, 1H), 9.49 (s, 1H); IR (KBr) 3410, 2940, 2860, 1755, 1690, 1600, 1530, 1450, 1420, 1380, 1290, 1240, 1140, 1055, 1030, and 995 cm−1; mass spectrum [(+) FAB], m/z 885 (M+H)+, 907 (M+Na)+; Anal. Calcd. for C42H45ClN2O17.1.0 H2O: C, 55.85; H, 5.24; N, 3.10, Found: C, 55.61; H, 4.89; N, 2.99.

reactant | nicotinic acid 6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-dihydroxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-4,5-dihydroxy-tetrahydro-pyran-2-ylmethyl ester | C(C)(=O)NC=1C=C(COC2C(C(C(C(O2)COC(C2=CN=CC=C2)=O)OC2C(C(C3OC(OCC3O2)C2=CC=CC=C2)O)O)O)O)C=CC1Cl | C34H37ClN2O13
reactant | KBr | [K+].[Br-]
solvent | H2O | O | H2O
product | Nicotinic acid 4,5-diacetoxy-6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-diacetoxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-tetrahydro-pyran-2-ylmethyl ester | C(C)(=O)OC1C(C(OC(C1OC(C)=O)OCC1=CC(=C(C=C1)Cl)NC(C)=O)COC(C1=CN=CC=C1)=O)OC1C(C(C2OC(OCC2O1)C1=CC=CC=C1)OC(C)=O)OC(C)=O | C42H45ClN2O17
